US06391874B1
(4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride
4-Chloro-6-iodoquinazoline (8 g) was treated with 4-benzyloxyaniline (5.5 g) in acetonitrile (500 ml) at reflux under N2 for 18 hours. Subsequent cooling and filtration gave the title compound (13.13 g); m/z (M+1)+454.

reactant | 4-Chloro-6-iodoquinazoline | 8 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | 4-benzyloxyaniline | 5.5 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | (4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine hydrochloride | 13.13 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)I | InChI=1S/C21H16IN3O.ClH/c22-16-6-11-20-19(12-16)21(24-14-23-20)25-17-7-9-18(10-8-17)26-13-15-4-2-1-3-5-15;/h1-12,14H,13H2,(H,23,24,25);1H
